US05576334
Ethyl 4-[3-(4-amidinobenzoyl)ureido]phenoxyacetate, hydrochloride salt
To a suspension of ethyl 4-[3-(4-amidinobenzoyl)ureido]phenoxyacetate, acetate salt (1.3 g), in methanol (60 ml) was added a solution of pyridine hydrochloride (400 mg) in methanol (5 ml). The resultant mixture was sonicated for 5 minutes and then heated to boiling. The resultant solution was filtered hot and diluted to turbidity with ether. On cooling to 10° C., a solid precipitated which was collected, washed with ether and recrystallised from methanol/ether to give the title compound (500 mg) as an off-white crystalline solid: m.p. 246°-250° C. (decomposes); NMR Spectrum (DMSO-d6) 1.23 (3H, t), 4.18 (2H, q), 4.76 (2H, s), 6.95 (2H, d), 7.50 (2H, d), 7.96 (2H, d), 8.20 (2H, d), 9.28 (2H, br s), 9.53 (2H, br s), 10.58 (1H, s), 11.22 (1H, s); Mass Spectrum m/Z 385 (M+H)+ ; Elemental Analysis: calculated for C19H20N4O5. 1.0 HCl: C, 54.2%; H, 5.03%; N, 13.3%; found: C, 54.4%; H, 4.9%; N, 13.3%.

reactant | ethyl 4-[3-(4-amidinobenzoyl)ureido]phenoxyacetate, acetate salt | 1.3 g | C(C)(=O)O.C(N)(=N)C1=CC=C(C(=O)NC(NC2=CC=C(OCC(=O)OCC)C=C2)=O)C=C1
reactant | pyridine hydrochloride | 400 mg | Cl.N1=CC=CC=C1
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | Ethyl 4-[3-(4-amidinobenzoyl)ureido]phenoxyacetate, hydrochloride salt | 500 mg | Cl.C(N)(=N)C1=CC=C(C(=O)NC(NC2=CC=C(OCC(=O)OCC)C=C2)=O)C=C1 | InChI=1S/C19H20N4O5.ClH/c1-2-27-16(24)11-28-15-9-7-14(8-10-15)22-19(26)23-18(25)13-5-3-12(4-6-13)17(20)21;/h3-10H,2,11H2,1H3,(H3,20,21)(H2,22,23,25,26);1H
